US04011335
1.66 g. of 4-[(6,7-epoxy-3,7,9-trimethyl-2-decenyl)-oxy]-1,2-(methylenedioxy)-benzene are dissolved in 30 ml. of ethyl acetate and hydrogenated by passing hydrogen gas in the presence of 50 mg. of platinum oxide until uptake of the theoretical amount of hydrogen. The catalyst is then filtered off and the filtrate evaporated. By chromatography on slica gel in hexane/ether (9:1 parts by volume) there is obtained pure 4-[(6,7-epoxy-3,7,9-trimethyldecyl)-oxy]-1,2-(methylenedioxy)-benzene of boiling point (bulb tube) 128° C./0.03 mm Hg; nD23 = 1.5027.

reactant | 4-[(6,7-epoxy-3,7,9-trimethyl-2-decenyl)-oxy]-1,2-(methylenedioxy)-benzene | O1C(CCC(=CCOC2=CC3=C(C=C2)OCO3)C)C1(CC(C)C)C | C20H28O4
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(6,7-epoxy-3,7,9-trimethyldecyl)-oxy]-1,2-(methylenedioxy)-benzene | O1C(CCC(CCOC2=CC3=C(C=C2)OCO3)C)C1(CC(C)C)C | C20H30O4
